US05102781
4-[3-ethylbenzothiazolinylidene]-3-methyl-1-phenylpyrazolin-5-one
3-Methyl-1-phenylpyrazolin-5-one (1.74 g, 0.01 mol) was mixed with a methanol solution of 2-ethylthio-3-ethylbenzothiazolium tosylate. Triethylamine (1.01 g, 0.01 mol) was added. The mixture was stirred for 10 minutes, then concentrated and treated with isopropanol. The mixture was heated to dissolve the product, then water was added to cloud, and the mixture cooled to give crystals: 3.22 g (48%), mp 144°-147.5° C., λmax=379 (ε=25,000).

reactant | 3-Methyl-1-phenylpyrazolin-5-one | 0.01 mol, 1.74 g | CC=1NN(C(C1)=O)C1=CC=CC=C1 | C10H10N2O
reactant | 2-ethylthio-3-ethylbenzothiazolium tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1.C(C)SC=1SC2=C([N+]1CC)C=CC=C2
reactant | Triethylamine | 0.01 mol, 1.01 g | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | 4-[3-ethylbenzothiazolinylidene]-3-methyl-1-phenylpyrazolin-5-one | C(C)N1CS(C2=C1C=CC=C2)=C2C(NN(C2=O)C2=CC=CC=C2)C | C19H21N3OS
